* Z:\mnt\spice-netlists\LTC6400-20_SE_Input.asc
XU1 N004 N007 N001 N003 N006 0 0 N005 NC_01 NC_02 LTC6400-20
V+ N001 0 3.0
CB1 N001 0 1000p
CB2 N001 0 0.1µ
VOCM N007 0 1.25
XU3 N009 N007 N001 N010 N013 0 0 N012 NC_03 NC_04 LTC6400-20
VS2 N008 0 AC 1 0
R1 N008 0 66.5
C1 N005 0 1µ
C2 N004 N002 1µ
R2 N011 0 29.4
C3 N009 N008 1µ
C4 N012 N011 1µ
VS1 N002 0 AC 1 0
.ac dec 100 100K 1G
* Shunt Resistor Match
* No Impedance Match
* SE Input Impedance is \nRinp=Rinm=Ri/(1-.5*(Rf/(Ri+Rf)))
* R2 balances input \nimpedance at the inputs
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2012 Linear Technology Inc. All rights reserved.
* LT6400-20 - 1.8 GHz Low Noise, Low Distortion Differential ADC Driver for 300 MHz IF \nSingle-Ended Impedance Matching for Fully Differential Amplifiers\nTwo example circuits that demonstrate single-ended resistance matching\nMore information on impedance matching is available in \nAN123, the LTC6400-20 datasheet, and the LTC6403 datasheet
.lib LTC6.lib
.backanno
.end
