* Z:\mnt\spice-netlists\LTC3785-1_TA02.asc
V1 IN 0 3
M§Q1 IN N005 N001 N001 FDS6890A
M§Q2 N001 N009 0 0 FDS6890A
D1 N003 N007 CMDSH2-3
C8 N007 N001 .22µ
L1 N001 N002 2.2µ
M§Q3 OUT N006 N002 N002 FDS6890A
D2 N003 N008 CMDSH2-3
C9 N008 N002 .22µ
M§Q4 N002 N010 0 0 FDS6890A
D3 0 N001 PMEG2020AEA
D4 N002 OUT PMEG2020AEA
C16 OUT 0 150µ
R1 OUT N014 215K
R3 N014 0 127K
C2 OUT N012 220p
C3 N014 N015 10p
R5 OUT N011 215K
R6 N011 0 127K
R7 N018 0 42.2K
R8 N017 0 49.9K
C1 N013 0 500p
Rload OUT 0 1.1
C14 OUT 0 47µ
R4 N016 N015 31.6K
C4 N014 N016 470p
R2 N012 N014 10K
C7 N003 0 4.7µ
XU2 N013 N015 N014 N011 N018 0 N017 0 N004 OUT N008 N006 N002 N002 N010 N003 N009 N001 N001 N005 N007 IN N003 IN 0 LTC3785-1
R9 OUT N004 100K
C5 IN 0 22µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1.5m startup
* LTC3785-1 - 10V, High Efficiency, Buck-Boost Controller with Power Good\n10W Li-Ion/9V Wall Adapter Buck-Boost Controller with Power Good\nInput: 2.7V to 10V     Output: 3.3V @ 3A, Fsw = 500kHz
* Note:\n  Component substitutions have been made based on available component models and parasitics are not modeled\n  A smaller value SS capacitor (C1) is used to reduce simulation time. Typical value should be 2.2nF.\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2014 Linear Technology Inc. All rights reserved.
.lib LTC3785-1.sub
.backanno
.end
