* Z:\mnt\spice-netlists\LTC3803-3_TA01.asc
V1 IN 0 50
L1 IN N004 50µ
L2 0 N001 2µ
M§Q1 N004 N005 N007 N007 BSS123
R1 N007 0 68m
R2 IN N002 10K
C1 N002 0 10µ
R3 OUT N003 105K
R4 N003 0 20K
D1 N001 OUT 1N5817
C2 OUT 0 300µ
Rload OUT 0 2.5
C3 N006 0 .001µ
XU1 N006 0 N003 N007 N002 N005 LTC3803-3
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
K1 L1 L2 1.
.tran 30m startup
* LTC3803-3 - Constant Frequency Current Mode Flyback DC/DC Controller\n5V Output Nonisolated Telecom Housekeeping Power Supply\nInput: 36V to 72V     Output: 5V @ 2A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2012 Linear Technology Inc. All rights reserved.
.lib LTC3803-3.sub
.backanno
.end
