* Z:\mnt\spice-netlists\LTC3803-5_TA01.asc
V1 IN 0 30
L1 IN N002 25µ
L2 0 N001 25µ
M§Q1 N002 N004 N005 N005 HAT2168H
R1 N005 0 12m
R2 OUT N003 57.6K
R3 N003 0 8.06K
D1 N001 OUT 1N5817
C1 OUT 0 25µ
XU1 N007 0 N003 N008 IN N004 LTC3803-5
C2 N007 N006 .01µ
R4 N006 0 7.5K
R5 N005 N008 4.7K
Rload OUT 0 5.5
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
K1 L1 L2 1.
.tran 9m startup
* LTC3803-5 - Constant Frequency Current Mode Flyback DC/DC Controller\n6.5V Output Nonisolated Telecom Housekeeping Power Supply\nInput: 6V to 50V     Output: 6.5V @ 1.2A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2012 Linear Technology Inc. All rights reserved.
.lib LTC3803-5.sub
.backanno
.end
