* Z:\mnt\spice-netlists\LTC3810-5_TA01.asc
R1 IN N003 274K
M§Q1 IN N001 N002 N002 BSH114
R2 IN N001 100K
D1 N002 N004 1N4148
C1 N004 N007 .1µ
M§Q2 IN N006 N007 N007 Si7850DP
M§Q3 N007 N012 0 0 Si7850DP
C2 N002 0 1µ
L1 N007 OUT 10µ
D2 0 N007 MBRS1100
R3 OUT N013 14K
R4 N013 0 1K
C3 OUT 0 270µ
C4 N011 N013 5p
C5 N008 0 1000p
XU1 MP_01 N002 N002 N005 0 N011 N013 N010 N008 MP_02 MP_03 N002 N002 N001 OUT N002 N002 N012 0 0 MP_04 MP_05 MP_06 N007 N007 N006 N004 MP_07 MP_08 MP_09 N003 MP_10 0 LTC3810-5
C6 N010 N009 .01µ
R6 N009 0 10K
C7 N011 N014 47p
R7 N013 N014 200K
V1 IN 0 36
Rload OUT 0 2
C8 IN 0 22µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1m startup
* LTC3810-5 - 60V Current Mode Synchronous Switching Regulator Controller\nHigh Efficiency High Voltage Step-Down Converter\nInput: 13V to 60V     Output: 12V @ 6A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2012 Linear Technology Inc. All rights reserved.
.lib LTC3810-5.sub
.backanno
.end
