* Z:\mnt\spice-netlists\LTC3890-2_TA06.asc
V1 N001 0 PWL(0 0 50us 12 1m 12 1.001m 5)
M§Q1 N001 N007 N010 N010 Si4896DY
M§Q2 N010 N013 0 0 Si4896DY
D1 N002 N008 1N4148
C1 N002 0 4.7µ
C2 N008 N010 .1µ
L1 N010 N011 3.3µ
R1 N011 OUT2 3m
C3 OUT2 0 330µ
R2 OUT2 N016 100K
R3 N016 0 31.6K
C4 N022 0 .001µ
M§Q3 N012 N006 N014 N014 Si4896DY
C5 N002 0 .1µ
C6 N021 0 .001µ
L2 N001 N012 4.7µ
L3 0 N009 4.7µ
C7 N012 N009 10µ
C8 OUT1 0 220µ
R4 N014 0 6m
R5 OUT1 N015 100K
R6 N015 0 7.15K
R7 0 N023 42K
D2 N009 OUT1 PDS760
R8 N001 N003 511K
XU1 0 N023 N024 NC_01 NC_02 0 N003 N003 OUT2 N011 N016 N019 N022 N005 N007 N010 N008 N013 N002 NC_03 0 N001 NC_04 N002 0 N006 N004 NC_05 N021 N018 N015 N014 LTC3890-2
R9 N002 N005 10K
R10 N002 N004 10K
R11 N018 N017 9.09K
C9 N017 0 10n
C10 N018 0 47p
R12 N020 N019 15K
C11 0 N020 2n
Rload2 OUT2 0 .33
Rload1 OUT1 0 6
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 2m startup
K L2 L3 1
* 3.3V @ 10A
* 12V @ 2.0A
* LTC3890-2 - 60V Low IQ, Dual, 2-Phase Synchronous Step-Down DC/DC Controller\nAutomotive 12V SEPIC and 3.3V Step-Down Converter\nInput: 5V to 35V     Output: 12V @ 2A and 3.3V @ 10A
* Note: \n  Smaller TRACK/SS capacitors are being used to reduce simulation time. Typical value should be 0.01µF.\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2013 Linear Technology Inc.  All rights reserved.
.lib LTC3890-2.sub
.backanno
.end
