* Z:\mnt\spice-netlists\LTC3115-1_TA04A.asc
R1 N010 0 35.7K
C1 N009 0 4.7µ
V1 IN 0 24
L1 N001 N002 4.7µ
C2 N001 N003 .1µ
C3 N002 N004 .1µ
R2 OUT N008 1Meg
R3 N008 0 90.9K
C4 N005 N008 820p
C5 OUT N006 33p
C6 OUT 0 47µ
XU1 0 N007 N002 OUT 0 MP_01 N005 N008 N010 MP_02 MP_03 N009 IN N009 N004 N003 IN N001 N009 LTC3115-1
R4 IN N007 2Meg
R5 N007 0 255K
C7 IN 0 10µ
R6 N006 N008 10K
Rload OUT 0 8.6
.tran 9m startup
* LTC3115-1 - 40V, 2A Synchronous Buck-Boost DC/DC Converter\nIndustrial 12V 1MHz Regulator with Undervoltage Lockout Thresholds\nInput: 10V - 40V     Output: 12V @ 1.4A, UVLO Enabled/Disabled at 10.6V/8.7V
* Notes: \n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2012 Linear Technology Inc.  All rights reserved.
.lib LTC3115-1.sub
.backanno
.end
