* Z:\mnt\spice-netlists\LTC4226-2_TA01A.asc
M§Q1 N002 N004 OUT1 OUT1 FDMS86500DC
R1 N001 N002 30m
V1 IN 0 12
M§Q2 N011 N010 OUT2 OUT2 FDMS86500DC
R2 N001 N011 30m
S1 N003 OUT1 N005 0 SWIT
C1 N003 0 1µ
V2 N005 0 PWL(.1 0 +.01m 1 +100m 1 +.01m 0)
C2 N006 0 220n
C3 0 N009 220n
R3 N001 N007 10K
R4 N001 N008 10K
D1 IN N001 SS3P5
C4 OUT2 0 1m
D2 0 N001 SMCJ33A
XU1 N007 N001 N001 N002 N004 OUT1 N006 0 0 N009 OUT2 N010 N011 N001 N001 N008 LTC4226-2
R5 N003 0 1
C5 OUT1 0 1m
Rload1 OUT1 0 20
Rload2 OUT2 0 100
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.model SWIT SW(Ron=1m Roff=1k vt=.5 vh=.1)
.tran 1 startup
* LTC4226 - Wide Operating Range Dual Hot Swap Controller\nDual 12V, 7.6A Dual Ideal Diode and Hot Swap Controller for FireWire Application
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2014 Linear Technology Inc. All rights reserved.
.lib LTC4226-2.sub
.backanno
.end
