* Z:\mnt\spice-netlists\LTC6992-1_TA01A.asc
R1 N002 0 200K
R4 PWMOUT 0 10K
V1 N001 0 3.3
V2 AnalogIN 0 PWL(0 0 10u 0 90u 1)
XU1 AnalogIN 0 N002 0 N001 PWMOUT LTC6992-1
C1 N001 0 0.1µ
.tran 100u
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2010 Linear Technology Inc. All rights reserved.
* LTC6992-1: TimerBlox: Voltage-Controlled Pulse Width Modulator\n1MHz Pulse Width Modulator (PWM)
.lib LTC6992-1.sub
.backanno
.end
